US07750161B2
C7.2. 2-Ethyl-6-methyl-isonicotinic acid
A solution of ethylmagnesiumbromide (freshly prepared from ethylbromide (392 mg, 3.6 mmol) and magnesium (83 mg, 3.4 mmol)) in Et2O (10 mL) is added to a cooled (−40° C.) and mechanically stirred solution of 2-chloro-6-methyl-isonicotinic acid tert-butyl ester (0.76 g, 3.34 mmol), Fe(acac)3 (21.2 mg, 0.06 mmol) and NMP (0.6 mL) in THF (60 mL). The mixture is warmed to r.t. during 0.5 h, diluted with Et2O (150 mL) and quenched with aq. KHSO4 (1 M, 40 mL). The phases are separated and the aq. phase is extracted with Et2O (2×50 mL). The combined organic extracts are dried (MgSO4), filtered and evaporated. The residue is purified by reversed phase MPLC. The obtained 2-ethyl-6-methyl-isonicotinic acid tert-butyl ester is dissolved in CH2Cl2 (10 mL). TFA (10 mL) is added and the mixture stirred at r.t. for 0.5 h. The mixture is evaporated and the residue dried in HV to provide the title compound.

reactant | ethylmagnesiumbromide | C(C)[Mg]Br
reactant | ethylbromide | 3.6 mmol, 392 mg | C(C)Br | C2H5Br
reactant | magnesium | 3.4 mmol, 83 mg | [Mg] | Mg
reactant | 2-chloro-6-methyl-isonicotinic acid tert-butyl ester | 3.34 mmol, 0.76 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)C)Cl)=O | C11H14ClNO2
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | NMP | 0.6 mL | CN1CCCC1=O | C5H9NO
product | 2-Ethyl-6-methyl-isonicotinic acid | C(C)C=1C=C(C(=O)O)C=C(N1)C | C9H11NO2
